US04128658
A solution of 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine dihydrochloride (2.8 g) and potassium cyanate (3.75 g) in water (50 ml) was heated on a steam bath for 8 hr. Excess solid sodium carbonate was added and organic material continually extracted with diethyl ether. The extracts were evaporated and the residue after column chromatography yielded N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]urea as a waxy solid (1.28 g). Analysis Found: C, 48.22; H, 7.50; N, 15.61. C11H19N3O2S.H2O requires: C, 48.00; H, 7.63; N, 15.27%.

reactant | 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine dihydrochloride | 2.8 g | Cl.Cl.CN(C)CC1=CC=C(O1)CSCCN
reactant | potassium cyanate | 3.75 g | [O-]C#N.[K+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 50 ml | O | H2O
product | N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]urea | CN(C)CC1=CC=C(O1)CSCCNC(=O)N | C11H19N3O2S
